data/mechanism_extracts/ChemCommun/10.1039_d2cc00761d.json
{"doi": "10.1039_d2cc00761d", "journal": "ChemCommun", "is_review": false, "rxn_class_summary": "External-oxidant-free electrochemical [3+2] cycloaddition of N-sulfonylcyclopropanes with olefins via N-centered radical intermediates to access di- and tri-substituted cyclopentane analogs.", "mechanism_family": ["radical_anodic", "mediator_anodic", "radical_polar_crossover", "electrocatalysis_outer_sphere", "paired_electrolysis"], "electrochemical_role": "Anodic oxidation of ferrocene to ferrocenium (Cp2Fe+) which acts as a single-electron mediator to oxidize the sulfonamide anion (generated by K2CO3 deprotonation of N-H sulfonamide) to an N-centered radical; cathode reduces a downstream distonic/imine radical intermediate to a carbanion that undergoes 5-exo cyclization.", "key_intermediates": [{"name": "Sulfonamide anion (deprotonated N-tosylcyclopropylamine)", "smiles": "[N-](S(=O)(=O)c1ccc(C)cc1)C1CC1", "role": "reactive"}, {"name": "N-centered radical on N-tosylcyclopropylamine (NCR, B)", "smiles": "[N](S(=O)(=O)c1ccc(C)cc1)C1CC1", "role": "reactive"}, {"name": "Ring-opened distonic carbon radical / N-sulfonyl imine with pendant C-radical (C)", "smiles": null, "role": "transient"}, {"name": "Alkene-addition C-radical adduct (D)", "smiles": null, "role": "reactive"}, {"name": "Carbanion intermediate after cathodic reduction (E)", "smiles": null, "role": "reactive"}, {"name": "Protonation by-product imine F (off-pathway, detected by HRMS [M+H]+ 298.1113)", "smiles": null, "role": "off_pathway"}, {"name": "Ferrocenium Cp2Fe+ (single-electron mediator)", "smiles": "[Fe+2].[cH-]1cccc1.[cH-]1cccc1", "role": "reactive"}], "electron_flow": "At the anode Cp2Fe is oxidized to Cp2Fe+, which performs outer-sphere SET on the K2CO3-derived sulfonamide anion to generate an N-centered radical; this NCR triggers β-scission of the cyclopropane to a primary C-radical that adds to the alkene, and the resulting radical is reduced at the cathode to a carbanion that undergoes 5-exo cyclization onto the N-sulfonyl imine followed by protonation to deliver the cyclopentane.", "rate_determining_step": null, "probe_reagents": [{"name": "TEMPO", "smiles": "CC1(C)CCCC(C)(C)N1[O]", "purpose": "radical_trap", "observation": "Complete shutdown of the reaction at 2.0 equiv, supporting a radical pathway."}, {"name": "BHT (butylated hydroxytoluene)", "smiles": "Cc1cc(C(C)(C)C)c(O)c(C(C)(C)C)c1", "purpose": "radical_trap", "observation": "Complete shutdown of the reaction at 2.0 equiv, consistent with radical intermediates."}, {"name": "N-cyclopropylacetamide (4, R=COCH3 instead of tosyl)", "smiles": "CC(=O)NC1CC1", "purpose": "other", "observation": "No reaction, showing that the N-sulfonyl group is essential (acetyl cannot generate the requisite aza-anion / NCR)."}, {"name": "Divided cell experiment", "smiles": null, "purpose": "other", "observation": "Only trace product after 1 h with starting materials largely recovered; rules out a chain-propagation mechanism and confirms continuous electron input is required."}, {"name": "(3-Bromoprop-1-en-2-yl)benzene (allyl bromide radical clock/trap, 2o)", "smiles": "BrCC(=C)c1ccccc1", "purpose": "intermediate_trap", "observation": "HRMS detection of trapped intermediate F ([M+H]+ 328.1371); hydrolysis liberated p-toluenesulfonamide confirmed by 1H NMR, supporting the proposed anionic/imine intermediates."}, {"name": "Cyclic voltammetry of 1a with/without Cp2Fe and K2CO3", "smiles": null, "purpose": "redox_probe", "observation": "Ep(1a) = 2.08 V vs Ag/AgCl shifts slightly to 2.24 V with ferrocene, and a marked enhancement in catalytic current is observed with Cp2Fe and K2CO3, confirming electrocatalytic mediation by ferrocene."}], "evidence_types_used": ["intermediate_trap_TEMPO", "intermediate_trap_BHT", "intermediate_trap_other", "cyclic_voltammetry", "isolation_of_intermediate", "on/off_light_or_current"], "evidence_strength": "strong", "notes": "An alternative closure is proposed in which radical D adds directly to the N-sulfonyl imine and the resulting N-centered radical is cathodically reduced and protonated to give 3; the carbanion E can also be quenched by a proton to give acyclic imine F (HRMS-detected), accounting for moderate yields. SCXRD of 3ag (CCDC 2115609) confirms product connectivity/stereochemistry."}
